Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematemesis
 
Major Surgical or Invasive Procedure:
EGD ___
EGD ___

 
History of Present Illness:
Mrs. ___ is a ___ year old woman with a history of CAD s/p PCI 
in ___ on ASA/Plavix and GERD presenting with hematemesis. The 
patient reports feeling nausea after going to bed last night. 
She states that she awoke and felt lightheaded and fell, bumping 
her head. She proceeded to the bathroom, where she vomited red 
blood. Her family member estimates that there was about a cup of 
bright red blood. She was subsequently taken to ___ where she 
vomited once more, this time dark clots and coffee ground 
material. 

The patient denies any symptoms prior to this episode - no
heartburn, nausea, vomiting, diarrhea, constipation, weight 
loss,
early satiety. A few months ago she was complaining of chest vs. 
epigastric pain and bloating. She underwent a cardiac work-up 
that was unrevealing so we was put on omeprazole for presumed
GERD.

She denies any previous history of GI bleeding. She denies
melena, hematochezia. She denies NSAID use or alcohol. She has
not had any recurrent hematemesis since the ___ ED. 

At ___, she was give 2L IVF, IV zofran and protonix. Her H/H was
reportedly ___. She was transferred to ___ for further
management. In the ___ ED, her H/H was 9.6/30.3 from a 
baseline of ___ in ___. She got a head CT to evaluate 
a bump on her head from the fall which showed no acute 
hemorrhage or fracture, but right vertex laceration, soft tissue 
swelling, and extracranial hematoma. She was given a dose of 
CTX.

GI was consulted in the ED, and prior to arrival to the floor an 
EGD was performed.  Per report, EGD demonstrated a large amount 
of hematin mixed with food obscuring a large portion of the 
stomach.  Of note, there was no evidence of active bleed or 
source of bleed, however the study was very limited.  
Post-procedure, pt was transferred to the floor for monitoring 
with plans for repeat EGD ___.

On arrival to the floor, pt reports she is feeling better, but 
lightheaded when getting up to go to the bathroom. She currently 
has no chest pain, no dyspnea, no abdominal pain. 

 
Past Medical History:
CAD s/p PCI in ___
CHF
COPD
HLD
GERD
s/p Appendectomy
s/p CCK 
 
Social History:
___
Family History:
No family history of GI disease or malignancy 
  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  T98.5 BP124/55 HR87 RR16 O2 97 RA
___: thin lying in bed with daughter by side; appears 
comfortable. 
HEENT: pale conjunctiva; moist mucosa; no oral lesions
Neck: no appreciable JVD
CV: RRR; normal S1, S2; S4.
Lungs: CTAx2
Abdomen: soft, nondistended, mildly tender at the epigastrum 
with deep palpation, no rebound or guarding. 
Ext: nonedematous, nontender, unable to appreciate pedal pulses. 

Neuro: AOx3; no focal deficits
Skin: pale (per patient's daughter this is her regular color).

DISCHARGE PHYSICAL EXAM
VS:Tm98.6 BP100s-110s/50s HR80s-101 RR18 O2 94 RA
___: sleeping in bed, easily awoken and alert; NAD.
HEENT: pale conjunctiva; moist mucosa; no oral lesions
Neck: no appreciable JVD
CV: RRR; normal S1, S2; S4.
Lungs: CTAx2
Abdomen: soft, nondistended, mildly tender at the epigastrum 
with deep palpation - stable from yesterday, no rebound or 
guarding. 
Ext: nonedematous, nontender, unable to appreciate pedal pulses. 

Neuro: AOx3; no focal deficits
Skin: pale (stable)
 
Pertinent Results:
ADMISSION LABS
___ 02:05AM BLOOD WBC-8.2 RBC-3.57* Hgb-9.6* Hct-30.3* 
MCV-85 MCH-26.9 MCHC-31.7* RDW-14.5 RDWSD-44.6 Plt ___
___ 02:05AM BLOOD Neuts-83.5* Lymphs-9.5* Monos-5.7 
Eos-0.5* Baso-0.6 Im ___ AbsNeut-6.87* AbsLymp-0.78* 
AbsMono-0.47 AbsEos-0.04 AbsBaso-0.05
___ 02:05AM BLOOD ___ PTT-27.8 ___
___ 02:05AM BLOOD Glucose-186* UreaN-41* Creat-0.5 Na-137 
K-4.3 Cl-100 HCO3-28 AnGap-13
___ 02:05AM BLOOD ALT-17 AST-22 AlkPhos-54 TotBili-0.5
___ 02:05AM BLOOD Lipase-18
___ 02:05AM BLOOD Albumin-3.8 Calcium-8.6 Phos-2.4* Mg-2.0

INTERMITTENT PERTINENT LABS
___ 12:57PM BLOOD WBC-5.8 RBC-3.43* Hgb-9.2* Hct-29.0* 
MCV-85 MCH-26.8 MCHC-31.7* RDW-14.6 RDWSD-44.4 Plt ___
___ 06:45PM BLOOD WBC-5.2 RBC-3.45* Hgb-9.1* Hct-29.1* 
MCV-84 MCH-

DISCHARGE LABS
26.4 MCHC-31.3* RDW-14.6 RDWSD-44.9 Plt ___
___ 03:40PM BLOOD WBC-4.8 RBC-3.17* Hgb-8.4* Hct-26.9* 
MCV-85 MCH-26.5 MCHC-31.2* RDW-14.8 RDWSD-45.6 Plt ___
___ 04:51AM BLOOD Glucose-150* UreaN-15 Creat-0.5 Na-138 
K-3.3 Cl-103 HCO3-28 AnGap-10
___ 04:51AM BLOOD Calcium-8.5 Phos-3.2 Mg-1.8

DIAGNOSTICS AND IMAGING
EGD ___
Impression: Large amount of dark hematin mixed with food 
obscuring about 50% of the stomach that could not be cleared 
despite vigorous washing. However, no evidence of active 
bleeding noted in the stomach.
Otherwise normal EGD to third part of the duodenum 
Recommendations: - continue to monitor H/H
- keep NPO, maintain with IVF
- repeat EGD tomorrow

___ ___
IMPRESSION: 
1. There is no evidence of acute intracranial process, 
specifically there is no evidence of intracranial hemorrhage or 
fracture. 
2. Right vertex laceration, soft tissue swelling, and 
extracranial hematoma. 

Chest X-Ray ___
IMPRESSION:    
No evidence of intraperitoneal free air.

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of CAD s/p PCI in 
___ on dual antiplatelet therapy, and GERD who presented with 
anemia and hematemesis. She was admitted with concern for UGIB.

#Upper GI bleed, hematemesis: Patient presented with hematemesis 
and new anemia to H/h 9.6/30.3, when previous Hb were ___. She 
was transferred from ___ for management. 
She had an EGD on arrival of ___, which showed dark hematin 
with no active bleeding. However, that EGD was inadequate 
because of the amount of material still in the tract. She was 
admitted for repeat EGD the next morning. CBCs were monitored 
q6h, and remained stable. She was started on IV pronotix, and 
aspirin, Plavix and metoprolol were held. Repeat EGD ___ 
showed a nonbleeding gastric ulcer. She was switched to po 
protonix bid, and aspirin and metoprolol were restarted as she 
was stable. She will have a follow-up EGD in ___ weeks. Iron 
supplementation was started.

#CAD s/p PCI ___: Continued statin. Held aspirin, Plavix and 
metoprolol on arrival. Continued aspirin and metoprolol post- 
second EGD as she was stable and no longer bleeding. Did not 
continue Plavix.

#COPD: Continued home regimen of advair and duonebs prn.
 
TRANSITIONAL ISSUES:
====================
# Pt will take Protonix 40mg BID x 8 weeks, then transition to 
daily
# Pt was continued on ASA, however Plavix was stopped due to 
bleeding given remote PCI in ___
# Pt was started on iron supplements given acute blood loss 
anemia
# Repeat EGD at ___ within ___ weeks of EGD ___
# Pt will need a stool H. pylori antigen test performed as an 
outpatient given non-bleeding ulcer found on EGD
# Pt will need a follow up CBC at her next PCP visit

___: >30 minutes spent coordinating discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Ipratropium-Albuterol Neb 1 NEB NEB Q6H PRN dyspnea, wheezing 


 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
3. Ipratropium-Albuterol Neb 1 NEB NEB Q6H PRN dyspnea, wheezing 

4. Metoprolol Succinate XL 12.5 mg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0
7. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
# Upper GI bleed, gastric ulcer
# Acute blood loss anemia

SECONDARY DIAGNOSIS:
====================
# Coronary artery disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

___ was a pleasure taking care of you during your stay at ___.  
You presented with an upper GI bleed and underwent a procedure 
called an EGD that demonstrated an ulcer in your stomach.  Your 
blood counts stabilized and you had no further episodes of 
bleeding while in the hospital.

You will need to continue taking Protonix twice daily and start 
taking Iron supplements daily.  Your Aspirin, Plavix, and 
Metoprolol were held on admission, and prior to discharge your 
Aspirin and Metoprolol were restarted.  Your Plavix was held at 
discharge given your bleed and the remoteness of your cardiac 
catheterization.

You will need to follow up with your primary care doctor ___.  
In addition, you will need to have a repeat EGD in ___ weeks at 
___.  The appointment for EGD is being scheduled and you will 
be called with a date and time. 

Thank you,

Your ___ team    
 
Followup Instructions:
___